US06413992B1
3,5-Dichloropyrdine-4-carboxylic acid, 4-chlorophenylhydrazide
Triethylamine (1.40 mL, 1.02 g, 10.1 mmol) was added to a suspension of 4-chlorophenylhydrazine hydrochloride (1.83 g, 98%, 10.0 mmol) in THF (75 mL). The mixture was stirred under nitrogen at room temperature for 2.75 h. More triethylamine (3.0 mL, 21.6 mmol) was added followed by dropwise addition of a solution of freshly-prepared 3,5-dichloropyridine-4-carbonyl chloride (10.0 mmol) in THF (20 mL). After stirring overnight, the reaction mixture was concentrated under reduced pressure. The residue was partitioned between ethyl acetate (100 mL) and water (50 mL). The layers were shaken together and allowed to separate. The organic phase was dried (Na2SO4) and concentrated, leaving 3.04 g of a tan solid, mp 201-203.5° C. Recrystallized from ethyl acetate/cyclohexane and then from ethanol furnished crystals which melted at 206-207.5° C.

reactant | Triethylamine | 10.1 mmol, 1.40 mL, 1.02 g | C(C)N(CC)CC | C6H15N
reactant | 4-chlorophenylhydrazine hydrochloride | 10.0 mmol, 1.83 g | Cl.ClC1=CC=C(C=C1)NN
reactant | triethylamine | 21.6 mmol, 3.0 mL | C(C)N(CC)CC | C6H15N
reactant | 3,5-dichloropyridine-4-carbonyl chloride | 10.0 mmol | ClC=1C=NC=C(C1C(=O)Cl)Cl | C6H2Cl3NO
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3,5-Dichloropyrdine-4-carboxylic acid, 4-chlorophenylhydrazide | 3.04 g | ClC1=CC=C(C=C1)N(N)C(=O)C1=C(C=NC=C1Cl)Cl | C12H8Cl3N3O
